US04363865
Phthalimidomethyl 2-(5,6-Dihydroxy-2-pyridylazo)benzoate
Phthalimidomethyl anthranilate (1.0 g) was dissolved in 20 ml tetrahydrofuran (THF), concentrated hydrochloric acid added (1 ml) and the solution cooled in an ice bath. With rapid stirring sodium nitrite (0.23 g dissolved in 1 ml water) was added and the mixture stirred for another 20 minutes. This solution was then added dropwise to an ice-cooled solution of 2,3-pyridinediol (0.4 g) and sodium acetate (2.0 g) in 50 ml of a 2:1 mixture by volume of methanol and water. On further stirring for 1 hour at 0° C. the dye precipitated. It was further diluted with 100 ml water and the mixture filtered. The precipitate was washed with water and dried. Yield 1.2 g, m.p. 196°-201° C. A thin layer chromatogram showed a single spot.

reactant | Phthalimidomethyl anthranilate | 1.0 g | C(C=1C(N)=CC=CC1)(=O)OCN1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 1 ml, 0.23 g | N(=O)[O-].[Na+]
reactant | 2,3-pyridinediol | 0.4 g | N1=C(C(=CC=C1)O)O | C5H5NO2
reactant | sodium acetate | 2.0 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | Phthalimidomethyl 2-(5,6-Dihydroxy-2-pyridylazo)benzoate | OC=1C=CC(=NC1O)N=NC1=C(C(=O)OCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C21H14N4O6
